US07465731B2
A solution of diethylphosphonoacetcacid ethyl ester (980 mg), in THF (5 ml) was added dropwise to admixture of 60% sodium hydride in oil (187 mg) in THF (30 mL) with stirring at 10-20° C. under atmospheric pressure of nitrogen, and the reaction mixture was stirred at ambient temperature for 30 minutes. A solution of tert-butyl (3R)-3-[(3-chloro-5-formyl-2-pyridinyl)amino]-1-pyrrolidinecarboxylate (0.95 g) in THF (10 ml) solution was added the above mixture and resultant mixture was stirred at ambient temperature for 1.5 hours. The reaction mixture was poured into a mixture of AcOEt-H2O and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-n-hexane (6:4). The eluted fractions containing the desired product were collected and evaporated in vacuo to give tert-butyl (3R)-3-({3-chloro-5-[(1E)-3-ethoxy-3-oxo-1-propen-1-yl]-2-pyridinyl}amino)-1-pyrrolidinecarboxylate (0.98 g)

reactant | sodium hydride | [H-].[Na+]
reactant | tert-butyl (3R)-3-[(3-chloro-5-formyl-2-pyridinyl)amino]-1-pyrrolidinecarboxylate | 0.95 g | ClC=1C(=NC=C(C1)C=O)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C15H20ClN3O3
reactant | AcOEt-H2O | C(=O)(C)OCC.O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | tert-butyl (3R)-3-({3-chloro-5-[(1E)-3-ethoxy-3-oxo-1-propen-1-yl]-2-pyridinyl}amino)-1-pyrrolidinecarboxylate | 0.98 g | ClC=1C(=NC=C(C1)\C=C\C(=O)OCC)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C19H26ClN3O4
